US08420684B2
Compound 274 1-(1H-Benzoimidazol-5-yl)-5-(3-chloro-2,6-difluoro-phenyl)-4-(1,2,2-trimethyl-propylimino)-imidazolidin-2-one
1H-Benzoimidazol-5-ylamine (1 mmol) and 3-Chloro-2,6-difluorobenzaldehyde (1 mmol) were combined in methanol (2 ml, dry). After 2 hours 2 ml of a solution of KOCN (KSCN) (2 mmol) and Pyridinehydrochloride (2 mmol) in MeOH is added was added. Finally 3-Isocyano-2,2-dimethyl-butane (1 mmol) is added. The reaction was stirred at room temperature for 48 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 1H-Benzoimidazol-5-ylamine | 1 mmol | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 3-Chloro-2,6-difluorobenzaldehyde | 1 mmol | ClC=1C(=C(C=O)C(=CC1)F)F | C7H3ClF2O
reactant | KOCN | 2 mmol | O([K])C#N
reactant | Pyridinehydrochloride | 2 mmol | Cl.N1=CC=CC=C1
reactant | 3-Isocyano-2,2-dimethyl-butane | 1 mmol | [N+](#[C-])C(C(C)(C)C)C | C7H13N
solvent | methanol | 2 ml | CO | CH4O
product | 1-(1H-Benzoimidazol-5-yl)-5-(3-chloro-2,6-difluoro-phenyl)-4-(1,2,2-trimethyl-propylimino)-imidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NC(C2C2=C(C(=CC=C2F)Cl)F)=NC(C(C)(C)C)C)=O | C22H22ClF2N5O
